US07019146B1
With reference to EXAMPLE 1-1, 5 mg (0.016 mmol) of iodobenzene diacetate was added to a mixture of 5 mg (0.017 mmol) of 4-(ferrocenylmethyl)urazole and 0.25 mL of tetrahydrofuran at room temperature. The mixture was stirred for 2 hours to give the tetrahydrofuran solution of 4-(ferrocenylmethyl)-1,2,4-triazoline-3,5-dione. A tetrahydrofuran (0.25 mL) solution of 1 mg (0.0025 mmol) of alfacalcidol prepared in accordance with the method described in Japanese Patent Publication (KOKAI) No. 48-62750, Tetrahedron Lett., 1973, 2339 and Tetrahedron, 30, 2701 (1974) was added to the resulting solution, followed by stirring at room temperature for an hour. The resulting mixture was concentrated under reduced pressure and the residue obtained was purified by thin layer silica gel chromatography (hexane:ethyl acetate=1:2) to give 1 mg (57%) of the titled alfacalcidol/4-(ferrocenylmethyl)-1,2,4-triazoline-3,5-dione adduct (ALF-FMTAD) as a yellow oily substance.

reactant | iodobenzene diacetate | 0.016 mmol, 5 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | 4-(ferrocenylmethyl)urazole | 0.017 mmol, 5 mg | [C-]1(C=CC=C1)CN1C(NNC1=O)=O.[CH-]1C=CC=C1.[Fe+2]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 mL | O1CCCC1 | C4H8O
product | 4-(ferrocenylmethyl)-1,2,4-triazoline-3,5-dione | [C-]1(C=CC=C1)CN1C(N=NC1=O)=O.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C8H6N3O2.C5H5.Fe/c12-7-9-10-8(13)11(7)5-6-3-1-2-4-6;1-2-4-5-3-1;/h1-4H,5H2;1-5H;/q2*-1;+2
